US05152929
20.9 g of 2-methyleneglutaric acid are dissolved at 50°, with stirring, in 150 ml of 75% H2SO4, and 24.2 g of 2-mercaptobenzthiazole are added slowly. The reaction is exothermic and the temperature rises to 60°. The reaction mixture is then stirred for 2 hours at 55°. The resulting brown solution is poured into 500 ml of water and stirred for 1 hour. 600 ml of water are then added, and the white precipitate is filtered off. Recrystallisation from aqueous methanol gives 4-(benzthiazol-2-ylthio)-butane-1,3-dicarboxylic acid, melting at 152°-154°.

reactant | 2-methyleneglutaric acid | 20.9 g | C=C(C(=O)O)CCC(=O)O | C6H8O4
reactant | 2-mercaptobenzthiazole | 24.2 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | water | 500 ml | O | H2O
reactant | water | 600 ml | O | H2O
solvent | H2SO4 | 150 ml | OS(=O)(=O)O | H2O4S
product | 4-(benzthiazol-2-ylthio)-butane-1,3-dicarboxylic acid | S1C(=NC2=C1C=CC=C2)SCC(CCC(=O)O)C(=O)O | C13H13NO4S2
